US07507734B2
54 mg of a mixture of 6-(2-oxoethyl)-2-(3-methoxy-6-pyridin-4-yl-pyridazin-4-yl)-indole-1-carboxylic acid tert-butyl ester and 6-(2-oxoethyl)-2-(3-Oxo-6-pyridin-4-yl-2,3-dihydro-pyridazin-4-yl)indole-1-carboxylic acid tert-butyl ester are dissolved in 9 mL dichloroethane. 160 μL morpholine and then 0.46 mL acetic acid are added. 129 mg sodium triacetoxyborohydride are added in several portions over 4 hours. Sat. aq. NaHCO3-solution is added and the reaction mixture is stirred until the CO2-evolution stopped. The reaction mixture is diluted with dichloromethane, the aq. phase washed with dichloromethane, the combined org. phases dried (MgSO4) and concentrated in vacuo. 8 mg (13%) crude product (mixture of 6-(2-piperidylethyl)-2-(3-methoxy-6-pyridin-4-yl-pyridazin-4-yl)-indole-1-carboxylic acid tert-butyl ester and 2-(3-oxo-6-pyridin-4-yl-2,3-dihydro-pyridazin-4-yl)-6-(2-piperidyl-ethyl)-indole-1-carboxylic acid tert-butyl ester is obtained, which is directly used in the next step.

reactant | 6-(2-oxoethyl)-2-(3-methoxy-6-pyridin-4-yl-pyridazin-4-yl)-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(=CC2=CC=C(C=C12)CC=O)C1=C(N=NC(=C1)C1=CC=NC=C1)OC | C25H24N4O4
reactant | 6-(2-oxoethyl)-2-(3-Oxo-6-pyridin-4-yl-2,3-dihydro-pyridazin-4-yl)indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(=CC2=CC=C(C=C12)CC=O)C=1C(NN=C(C1)C1=CC=NC=C1)=O | C24H22N4O4
reactant | morpholine | 160 μL | N1CCOCC1 | C4H9NO
reactant | sodium triacetoxyborohydride | 129 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaHCO3 | C(=O)(O)[O-].[Na+]
reactant | CO2 | C(=O)=O | CO2
solvent | dichloroethane | 9 mL | ClC(C)Cl | C2H4Cl2
solvent | dichloromethane | ClCCl | CH2Cl2
solvent | acetic acid | 0.46 mL | C(C)(=O)O | C2H4O2
product | 2-(3-oxo-6-pyridin-4-yl-2,3-dihydro-pyridazin-4-yl)-6-(2-piperidyl-ethyl)-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(=CC2=CC=C(C=C12)CCC1NCCCC1)C=1C(NN=C(C1)C1=CC=NC=C1)=O | C29H33N5O3
